US04439433
A mixture of 6 g of the syn isomer of ethyl 2-(2-bromoethoxyimino)-2-(2-tritylamino-4-thiazolyl)-acetate, 60 ml of methyl ethyl ketone and 2.141 g of sodium iodide was refluxed for 70 minutes and was then evaporated to dryness under reduced pressure. The residue was taken up in 120 ml of methylene chloride and the solution was washed 5 times with 40 ml of water. Each of the wash waters were reextracted with 2 ml of methylene chloride and the combined organic phase were dried and evaporated to dryness. The resin residue was added to ether and the solution was evaporated to dryness under reduced pressure to obtain 6.22 g of the syn isomer of ethyl 2-(2-iodoethoxyimino)-2-(2-tritylamino-4-thiazolyl)acetate melting at 110° C.

reactant | ethyl 2-(2-bromoethoxyimino)-2-(2-tritylamino-4-thiazolyl)-acetate | BrCCON=C(C(=O)OCC)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26BrN3O3S
reactant | sodium iodide | 2.141 g | [I-].[Na+]
solvent | methyl ethyl ketone | 60 ml | C(C)C(=O)C | C4H8O
product | ethyl 2-(2-iodoethoxyimino)-2-(2-tritylamino-4-thiazolyl)acetate | ICCON=C(C(=O)OCC)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26IN3O3S
